US06127541
2-(3-Morpholinopropylamino)benzonitrile
According to a similar manner to that in Reference Example 3, the title compound was synthesized from 2-fluorobenzonitrile and 4-(3-aminopropyl)morpholine.

reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 4-(3-aminopropyl)morpholine | NCCCN1CCOCC1 | C7H16N2O
product | 2-(3-Morpholinopropylamino)benzonitrile | O1CCN(CC1)CCCNC1=C(C#N)C=CC=C1 | C14H19N3O
